* gnetlist -g spice-sdb -o spice.net x.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
V3 A unconnected_pin-1 DC 3.3V
M11 C 6 0 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
M10 1 6 C 1 unknown 
M9 6 2 4 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
M8 7 2 6 1 unknown 
M7 1 4 7 1 unknown 
M6 6 0 2 1 pmos4 
.MODEL pmos4 PMOS (L=1u  W=3u)
M5 6 4 2 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
M4 5 0 4 5 unknown 
M3 4 0 0 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
M1 1 A 2 1 unknown 
.INCLUDE spice.inc
M2 2 A 3 3 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
V2 1 0 DC 3.3V
.end
