* /usr/local/bin/xorn netlist --symbol-library /usr/local/share/gEDA/sym/misc --symbol-library /usr/local/share/gEDA/sym/relay --symbol-library /usr/local/share/gEDA/sym/opto --symbol-library /usr/local/share/gEDA/sym/supervisor --symbol-library /usr/local/share/gEDA/sym/pla --symbol-library /usr/local/share/gEDA/sym/rf --symbol-library /usr/local/share/gEDA/sym/tube --symbol-library /usr/local/share/gEDA/sym/transistor --symbol-library /usr/local/share/gEDA/sym/micro --symbol-library /usr/local/share/gEDA/sym/memory --symbol-library /usr/local/share/gEDA/sym/bus --symbol-library /usr/local/share/gEDA/sym/xilinx --symbol-library /usr/local/share/gEDA/sym/st --symbol-library /usr/local/share/gEDA/sym/philips --symbol-library /usr/local/share/gEDA/sym/national --symbol-library /usr/local/share/gEDA/sym/minicircuits --symbol-library /usr/local/share/gEDA/sym/maxim --symbol-library /usr/local/share/gEDA/sym/linear --symbol-library /usr/local/share/gEDA/sym/lattice --symbol-library /usr/local/share/gEDA/sym/irf --symbol-library /usr/local/share/gEDA/sym/idt --symbol-library /usr/local/share/gEDA/sym/dec --symbol-library /usr/local/share/gEDA/sym/apex --symbol-library /usr/local/share/gEDA/sym/amphenol --symbol-library /usr/local/share/gEDA/sym/altera --symbol-library /usr/local/share/gEDA/sym/allegro --symbol-library /usr/local/share/gEDA/sym/asicpads --symbol-library /usr/local/share/gEDA/sym/asic --symbol-library /usr/local/share/gEDA/sym/switcap --symbol-library /usr/local/share/gEDA/sym/spice --symbol-library /usr/local/share/gEDA/sym/cascade --symbol-library /usr/local/share/gEDA/sym/ecl --symbol-library /usr/local/share/gEDA/sym/4000 --symbol-library /usr/local/share/gEDA/sym/74 --symbol-library /usr/local/share/gEDA/sym/IEC417 --symbol-library /usr/local/share/gEDA/sym/titleblock --symbol-library /usr/local/share/gEDA/sym/switch --symbol-library /usr/local/share/gEDA/sym/radio --symbol-library /usr/local/share/gEDA/sym/power --symbol-library /usr/local/share/gEDA/sym/io --symbol-library /usr/local/share/gEDA/sym/diode --symbol-library /usr/local/share/gEDA/sym/connector --symbol-library /usr/local/share/gEDA/sym/analog --symbol-library /usr/local/share/gEDA/sym/local -g guile -O add-to-load-path=/usr/local/share/gEDA/scheme -O load=/usr/local/share/gEDA/scheme/gnetlist.scm -O load=/usr/local/share/gEDA/scheme/gnet-spice-sdb.scm -O load=/usr/local/share/gEDA/scheme/gnetlist-post.scm -O guile-proc=spice-sdb -O use-spice-netnames -v -o spice.net x.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
V1 B 0 pwl (0  0 10ms 0  10ms 3.3 20ms 3.3 20ms 0 ) r=0ms
V3 A 0 DC 0.3V
M11 C 4 0 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
M10 1 4 C 1 pmos4 
.MODEL pmos4 PMOS (L=1u  W=3u)
M9 4 2 3 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
M8 5 2 4 1 pmos4 
.MODEL pmos4 PMOS (L=1u  W=3u)
M7 1 3 5 1 pmos4 
.MODEL pmos4 PMOS (L=1u  W=3u)
M6 4 B 2 1 pmos4 
.MODEL pmos4 PMOS (L=1u  W=3u)
M5 4 3 2 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
M4 1 B 3 1 pmos4 
.MODEL pmos4 PMOS (L=1u  W=3u)
M3 3 B 0 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
M1 1 A 2 1 pmos4 
.MODEL pmos4 PMOS (L=1u  W=3u)
.INCLUDE spice.inc
M2 2 A 0 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
V2 1 0 DC 3.3V
.end
