* gnetlist -g spice-sdb -o spice.net x.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
VA A 0 pwl (10ms 0  10ms 3.3 30ms 3.3 30ms 0 40ms 0)
VB B 0 pwl (10ms 0  10ms 3.3 20ms 3.3 20ms 0 30ms 0 30ms 3.3 40ms 3.3 40ms 0 ) 
M11 C 4 0 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
M10 1 4 C 1 pmos4 
.MODEL pmos4 PMOS (L=1u  W=3u)
M9 4 2 3 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
M8 5 2 4 1 pmos4 
.MODEL pmos4 PMOS (L=1u  W=3u)
M7 1 3 5 1 pmos4 
.MODEL pmos4 PMOS (L=1u  W=3u)
M6 4 B 2 1 pmos4 
.MODEL pmos4 PMOS (L=1u  W=3u)
M5 4 3 2 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
M4 1 B 3 1 pmos4 
.MODEL pmos4 PMOS (L=1u  W=3u)
M3 3 B 0 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
M1 1 A 2 1 pmos4 
.MODEL pmos4 PMOS (L=1u  W=3u)
.INCLUDE spice.inc
M2 2 A 0 0 nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
VDD 1 0 DC 3.3V
.end
